US04049669
5-Methoxymethyl-4-methylthiazole hydrochloride (1.04 g.) and 0.66 g. of cysteamine hydrochoride in 5.5 ml. of acetic acid was refluxed for 24 hours. The mixture was concentrated and the residue was dissolved in water. The aqueous solution was neutralized with sodium hydroxide and extracted with chloroform. The extract was dried (MgSO4) and evaporated to dryness to give 5-(2-aminoethyl)thiomethyl-4-methylthiazole.

reactant | 5-Methoxymethyl-4-methylthiazole hydrochloride | 1.04 g | Cl.COCC1=C(N=CS1)C
reactant | cysteamine hydrochoride | Cl.NCCS
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-(2-aminoethyl)thiomethyl-4-methylthiazole | NCCSCC1=C(N=CS1)C | C7H12N2S2
